US07189850B2
b) 1-Benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide
To 500 ml 90% sulfuric acid were slowly added at 0° C. 152 g (493 mmol) 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile. The mixture was stirred at ambient temperature for 16 h, then cooled to 0° C., diluted with 200 ml water, pH was adjusted to 9 by addition of 5N NaOH and the aqueous mixture extracted with dichloromethane. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated: 155 g 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide as light brown crystals: MS (ISP): 328.3 MH+.

reactant | sulfuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile | 493 mmol, 152 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC=C(C=C1)F | C19H20FN3
reactant | NaOH | 5N | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 1-Benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)N)NC1=CC=C(C=C1)F | C19H22FN3O
